US08304419B2
To a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-cyclopropylbenzonitrile (95 mg, 0.299 mmol), 2-(bis{[(1,1-dimethylethyl)oxy]carbonyl}amino)-4-chloro-1H-imidazole-5-carboxylic acid (120 mg, 0.299 mmol) and HOBT (45.7 mg, 0.299 mmol) in DMF (3 ml) was added EDC (57.2 mg, 0.299 mmol) and the reaction mixture was stirred at RT for 45 minutes. The reaction mixture was diluted with EtOAc and washed with water. The solvent was removed and the crude material bis(1,1-dimethylethyl)(4-chloro-5-{[({4-chloro-3-[(3-cyano-5-cyclopropylphenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-1H-imidazol-2-yl)imidodicarbonate (165 mg, 0.250 mmol, 84% yield) was used directly in the next step. LC-MS (ES+) m/z 660 [M+H].

reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-cyclopropylbenzonitrile | 0.299 mmol, 95 mg | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)C1CC1)F | C17H14ClFN2O
reactant | 2-(bis{[(1,1-dimethylethyl)oxy]carbonyl}amino)-4-chloro-1H-imidazole-5-carboxylic acid | 0.299 mmol, 120 mg | CC(C)(C)OC(=O)N(C=1NC(=C(N1)Cl)C(=O)O)C(=O)OC(C)(C)C | C14H20ClN3O6
reactant | HOBT | 0.299 mmol, 45.7 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.299 mmol, 57.2 mg
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | bis(1,1-dimethylethyl)(4-chloro-5-{[({4-chloro-3-[(3-cyano-5-cyclopropylphenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-1H-imidazol-2-yl)imidodicarbonate | 0.250 mmol, 165 mg, 84% yield | CC(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C=1NC(=C(N1)Cl)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C1CC1)C#N)F | C31H32Cl2FN5O6
